US07423159B2
A mixture of 2-(4-nitrophenyl)acetamide (14.6 g), 1-bromo-2-butanone (20.46 g) and N,N-dimethylformamide (2 mL) was stirred at 140° C. for 2 hrs. Water, potassium carbonate and ethyl acetate were added to basify the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 4-ethyl-2-(4-nitrobenzyl)-1,3-oxazole as brown crystals (2.65 g, yield 14%) from a fraction eluted with hexane-ethyl acetate (2:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave brown prism crystals. melting point: 58-59° C.

reactant | 2-(4-nitrophenyl)acetamide | 14.6 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)N | C8H8N2O3
reactant | 1-bromo-2-butanone | 20.46 g | BrCC(CC)=O | C4H7BrO
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-ethyl-2-(4-nitrobenzyl)-1,3-oxazole | 2.65 g, yield 14% | C(C)C=1N=C(OC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C12H12N2O3
